US07612067B2
Preparation of (2-{4-chloro-5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-thiophen-2-yl}-pyrrol-1-yl)-dimethyl-amine
Using a procedure analogous to Example 27, 1-(dimethylamino)-pyrrole (0.20 mL, 1.65 mmol), THF (4 mL), 1.6 M n-BuLi (1.10 mL, 1.73 mmol), 0.5 M ZnCl2 (3.46 mL, 1.73 mmol), 3-(5-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.34 g, 0.82 mmol) and PdCl2(dppf) (0.030 g, 0.041 mmol), furnish the title compound (0.17 g, 0.38 mmol, 46%). 1H NMR (CDCl3) δ 0.87 (t, J=7.5 Hz, 6H), 1.74-1.92 (m, 4H), 2.52 (s, 6H), 2.84 (s, 6H), 3.28-3.39 (m, 1H), 6.21 (dd, J=4.1, 3.2 Hz, 1H), 6.38 (dd, J=4.1, 1.8 Hz, 1H), 6.68 (s, 1H), 7.02 (dd, J=3.2, 1.8 Hz, 1H), 7.29 (s, 1H). LC/MS (m/z): calcd. for C23H28ClN5S (M+H)+: 442.2; found: 442.3.

reactant | 1-(dimethylamino)-pyrrole | 1.65 mmol, 0.20 mL | CN(N1C=CC=C1)C | C6H10N2
reactant | n-BuLi | 1.73 mmol, 1.6 M, 1.10 mL | [Li]CCCC
reactant | 3-(5-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.82 mmol, 0.34 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Cl | C17H19BrClN3S
catalyst | ZnCl2 | 1.73 mmol, 0.5 M, 3.46 mL | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(dppf) | 0.041 mmol, 0.030 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (2-{4-chloro-5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-thiophen-2-yl}-pyrrol-1-yl)-dimethyl-amine | 0.38 mmol, 0.17 g, 46% | ClC=1C=C(SC1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C=2N(C=CC2)N(C)C | C23H28ClN5S
